US06635657B1
A. N-(5-Methylpyridin-2-yl)-2-nitrobenzamide
To a stirring solution of 2-amino-5-methylpyridine (3.1 g, 29 mmol) and pyridine (7.3 mL, 90 mmol) in dichloromethane (200 mL) was added 2-nitrobenzoyl chloride (5.7 g, 30 mmol). After 4 h, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate (500 mL) and water (250 mL). The organic phase was separated and washed again with water (250 mL) followed by brine (250 mL) and then dried with MgSO4, filtered and partially concentrated in vacuo, which resulted in the formation of a precipitate. After standing overnight, the solid was filtered and dried in vacuo to give 3.9 g (52%) of white solid.

reactant | 2-amino-5-methylpyridine | 29 mmol, 3.1 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | pyridine | 90 mmol, 7.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzoyl chloride | 30 mmol, 5.7 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(5-Methylpyridin-2-yl)-2-nitrobenzamide | 3.9 g, 52% | CC=1C=CC(=NC1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C13H11N3O3
